US05665329
B. Preparation of 1-Ethoxy-3-chloro-3-methyl-2-nitrosobutane
Concentrated HCl was added to a cooled (0°-5° C.) solution of isoamyl nitrite (14.0 g, 120 mmol) and 1-ethoxy-3-methyl-2-butene (6.84 g, 60 mmol). The temperature was maintained below 5° C. during the addition and the reaction mixture was stirred at 5° C. for an additional 30 min. The product was filtered and washed with a cold (-20° C.) 1:1 mixture of ethanol and ether. The solid was further washed with ether to afford a white solid. Yield: 6.9 g (64%); mp 84°-85° C. 1H NMR (CDCl3) δ1.12 (t, 3H, CH2C H3), 1.65 (d, 6H, C H3), 3.49 and 3.95 (m, 2H, C H2OCH2C H3), 4.15 (m, 2H, C H2C H3), 6.12 (dd, 1H, [CH3)2C=C H--]. MS: (M+H)+ =180.

reactant | HCl | Cl | ClH
reactant | isoamyl nitrite | 120 mmol, 14.0 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 1-ethoxy-3-methyl-2-butene | 60 mmol, 6.84 g | C(C)OCC=C(C)C | C7H14O
product | 1-Ethoxy-3-chloro-3-methyl-2-nitrosobutane | C(C)OCC(C(C)(C)Cl)N=O | C7H14ClNO2
